US05308863
(-)-4-Amino-5,6-dihydro-6-(3-methoxypropyl)-4H-thieno[2,3-b]thiopyran-2-sulfonamide-7,7-dioxide hydrochloride, trans isomer
A solution of 4-acetamido-5,6-dihydro-6-(3-methoxypropyl)-4H-thieno[2,3-b]thiopyran-2-sulfonamide-7,7-dioxide (7.3 g), (prepared employing substantially the same procedures as described in Example 10, Steps A through I), methanol (70 ml.) and 6N HCl (70 ml.) was heated at reflux for 18 hours then evaporated at reduced pressure to a volume of 20 ml. The reaction mixture was made basic with aqueous NaHCO3 and extracted wth ethyl acetate (2×80 ml.). The organic phase was washed with brine, dried over Na2SO4 and evaporated in vacuo. The residue was crystallized from ethanol (20 ml.) to remove the cis isomer and the product thus obtained was redissolved in hot ethanol, treated with an excess of ethanolic HCl and ether to provide 1.0 g of the title compound which melts at 262° C.

reactant | 4-acetamido-5,6-dihydro-6-(3-methoxypropyl)-4H-thieno[2,3-b]thiopyran-2-sulfonamide-7,7-dioxide | 7.3 g | C(C)(=O)NC1C2=C(S(C(C1)CCCOC)(=O)=O)SC(=C2)S(=O)(=O)N | C13H20N2O6S3
reactant | methanol | 70 ml | CO | CH4O
reactant | HCl | 6N, 70 ml | Cl | ClH
reactant | ether | CCOCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
product | (-)-4-Amino-5,6-dihydro-6-(3-methoxypropyl)-4H-thieno[2,3-b]thiopyran-2-sulfonamide-7,7-dioxide hydrochloride | 1.0 g | Cl.NC1C2=C(S(C(C1)CCCOC)(=O)=O)SC(=C2)S(=O)(=O)N | InChI=1S/C11H18N2O5S3.ClH/c1-18-4-2-3-7-5-9(12)8-6-10(21(13,16)17)19-11(8)20(7,14)15;/h6-7,9H,2-5,12H2,1H3,(H2,13,16,17);1H
